US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1.77 g) is alkylated using 5-chloromethyl-2,4-dimethyl-thiazole (1.09 g; 6.74 mmol) (Zh. Obshch. Khim. 1956, engl. transl. 3835) and K2CO3 (1.05 g; 7.41 mmol) at 60° C. for 3 days. After aqueous work-up the crude material is de-acetylated in MeOH (70 ml) using DBU (2.2 ml) at reflux. After aqueous work-up 5-amino-1-(2,4-dimethyl-thiazol-5-ylmethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (1.44 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.77 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 5-chloromethyl-2,4-dimethyl-thiazole | 6.74 mmol, 1.09 g | ClCC1=C(N=C(S1)C)C | C6H8ClNS
reactant | K2CO3 | 7.41 mmol, 1.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DBU | 2.2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeOH | 70 ml | CO | CH4O
product | 5-amino-1-(2,4-dimethyl-thiazol-5-ylmethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 1.44 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=C(N=C(S1)C)C)=O)(C)C | C16H18N4O3S
